US06410585B1
5-((2R)-2-({(2S)-2-[(tert-Butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-oxo-3-{[3-(2-oxo-1-pyrrolidinyl)propyl]amino}propyl)-2-(carboxymethoxy)benzoic Acid
Synthesis was performed from (2S)-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[3-(methoxycarbonyl)-4-(2-methoxy-2-oxoethoxy)phenyl]propanoic acid (100 mg, 0.18 mmol) and N-(3′-aminopropyl)-2-pyrrolidinone (42 mg, 0.29 mmol) according to Method C with HPLC purification to give the title compound (26 mg). 1H-NMR (400 MHz, CD3OD) δ 1.35 (s, 9H) 1.6 (m, 2H) 2.03 (m, 2H) 2.37 (t, 2H) 2.76 (m, 1H) 2.92-3.10 (m, 5H) 3.14 (t, 2H) 3.42 (t, 2H) 4.25 (m, 1H) 4.5 (m, 1H) 4.78 (s, 2H) 7.05 (d, 1H) 7.23 (dd, 5H) 7.42 (d, 1H) 7.72 (s, 1H); HR-MS m/z 654.2880 (calc. Of monoisotopic mass for C33H42N4O10 gives 654.2901).

reactant | (2S)-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[3-(methoxycarbonyl)-4-(2-methoxy-2-oxoethoxy)phenyl]propanoic acid | 0.18 mmol, 100 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)N[C@H](C(=O)O)CC1=CC(=C(C=C1)OCC(=O)OC)C(=O)OC)CC1=CC=CC=C1 | C28H34N2O10
reactant | N-(3′-aminopropyl)-2-pyrrolidinone | 0.29 mmol, 42 mg | NCCCN1C(CCC1)=O | C7H14N2O
product | 5-((2R)-2-({(2S)-2-[(tert-Butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-oxo-3-{[3-(2-oxo-1-pyrrolidinyl)propyl]amino}propyl)-2-(carboxymethoxy)benzoic Acid | 26 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)N[C@H](CC=1C=CC(=C(C(=O)O)C1)OCC(=O)O)C(NCCCN1C(CCC1)=O)=O)CC1=CC=CC=C1 | C33H42N4O10
